US06194447B1
1-(4-(2-Aminobenzimidazol-1-yl)phenyl)-3-phenylguanidine hydrochloride (Compound 2f).
A mixture of 2-Amino-N-(4-aminophenyl)benzimidazole hydrochloride (1.58 g, 6.06 mmol), phenylcyanamide (2.79 g, 23.6 mmol) and acetonitrile (10 ml) was refluxed for 3 days. The solid product was filtered off. The product was recrystallized from acetonitrile (300 ml). Yield 1.3 g, 57%. M.p. 265-267° C.

reactant | 2-Amino-N-(4-aminophenyl)benzimidazole hydrochloride | 6.06 mmol, 1.58 g | Cl.NC1=NC2=C(N1C1=CC=C(C=C1)N)C=CC=C2
reactant | phenylcyanamide | 23.6 mmol, 2.79 g | C1(=CC=CC=C1)NC#N | C7H6N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(4-(2-Aminobenzimidazol-1-yl)phenyl)-3-phenylguanidine hydrochloride | Cl.NC1=NC2=C(N1C1=CC=C(C=C1)NC(=N)NC1=CC=CC=C1)C=CC=C2 | InChI=1S/C20H18N6.ClH/c21-19(23-14-6-2-1-3-7-14)24-15-10-12-16(13-11-15)26-18-9-5-4-8-17(18)25-20(26)22;/h1-13H,(H2,22,25)(H3,21,23,24);1H
